US09034880B2
Preparation of the title compound was carried out according to General Method 8. p-Tolylhydrazine hydrochloride (500 mg, 3.1 mmol), 2-fluorophenyl ethyl bromide (639 mg, 3.1 mmol), triethyl amine (313 mg, 3.1 mmol) and N-methyl-4-piperidone hydrochloride (692 mg, 4.6 mmol) were combined in ethanol (2 ml) to obtain 30 mg of 5-(2-fluorophenethyl)-2,3,4,5-tetrahydro-2,8-dimethyl-1H-pyrido[4,3-b]indole after purification on neutral alumina using ethyl acetate-hexane gradient. The free base was converted into its oxalate salt by treatment of oxalic acid (1 equiv) in anhydrous THF.

reactant | p-Tolylhydrazine hydrochloride | 3.1 mmol, 500 mg | Cl.C1(=CC=C(C=C1)NN)C
reactant | 2-fluorophenyl ethyl bromide | 3.1 mmol, 639 mg | FC1=C(C=CC=C1)CCBr | C8H8BrF
reactant | triethyl amine | 3.1 mmol, 313 mg | C(C)N(CC)CC | C6H15N
reactant | N-methyl-4-piperidone hydrochloride | 4.6 mmol, 692 mg | Cl.CN1CCC(CC1)=O
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | 5-(2-fluorophenethyl)-2,3,4,5-tetrahydro-2,8-dimethyl-1H-pyrido[4,3-b]indole | 30 mg | FC1=C(CCN2C3=C(C=4C=C(C=CC24)C)CN(CC3)C)C=CC=C1 | C21H23FN2
